US07026339B2
2-((1R,2S)-2-{[2-(1,3-benzodioxol-5-yl)acetyl]amino}cyclopropyl)phenyl 4-(trifluoromethyl)benzenesulfonate [PHA-828238]
A solution of 2-{2-[(tert-butoxycarbonyl)amino]cyclopropyl}phenyl 4-(trifluoromethyl)benzenesulfonate (0.09 g, 0.2 mmol) in methylene chloride (1 mL) is treated with trifluoroacetic acid (0.1 mL) at room temperature for 2 hours. The reaction is evaporated in vacuo to a white solid. The solid is treated with N,N-dimethylacetamide (0.3 mL), and triethylamine (27 □L, 0.2 mmol). A mixture of 3,4-(methylenedioxy)phenylacetic acid (39 mg, 0.22 mmol), 4-dimethylaminopyridine (27 mg, 0.22 mmol), and N,N-dimethylacetamide (0.1 mL) is added to the reaction, followed by the addition of 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide (42 mg, 0.22 mmol). The reaction is stirred at room temperature overnight. After work-up with ethyl acetate-hexane-water, the dried, evaporated residue is purified on silica gel in ethyl acetate-methylene chloride mixtures. The product, 2-((1R,2S)-2-{[2-(1,3-benzodioxol-5-yl)acetyl]amino}cyclopropyl)phenyl 4-(trifluoromethyl)-benzenesulfonate, is recrystallized from methanol-water. A yield of 80% is obtained. 1H NMR (400 MHz, CDCl3) d 1.15 (m, 1H); 1.25 (m, 1H); 2.07 (m, 1H); 2.80 (m, 1H); 3.50 (s, 2H); 5.97 (m, 3H); 6.78 (m, 4H); 7.05 (m, 1H); 7.13 (m, 1H); 7.21 (m, 1H); 7.85 (m, 2H); 8.02 (m, 2H). ESI+ for C25H20F3NO6S m/z=520 (M+H)+.

reactant | 2-{2-[(tert-butoxycarbonyl)amino]cyclopropyl}phenyl 4-(trifluoromethyl)benzenesulfonate | 0.2 mmol, 0.09 g | FC(C1=CC=C(C=C1)S(=O)(=O)OC1=C(C=CC=C1)C1C(C1)NC(=O)OC(C)(C)C)(F)F | C21H22F3NO5S
reactant | trifluoroacetic acid | 0.1 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | triethylamine | 0.2 mmol | C(C)N(CC)CC | C6H15N
reactant | 3,4-(methylenedioxy)phenylacetic acid | 0.22 mmol, 39 mg | C1OC2=C(O1)C=C(C=C2)CC(=O)O | C9H8O4
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide | 0.22 mmol, 42 mg | C(C)N=C=NCCCN(C)C | C8H17N3
solvent | methylene chloride | 1 mL | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.22 mmol, 27 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | N,N-dimethylacetamide | 0.1 mL | CN(C(C)=O)C | C4H9NO
solvent | N,N-dimethylacetamide | 0.3 mL | CN(C(C)=O)C | C4H9NO
product | 2-((1R,2S)-2-{[2-(1,3-benzodioxol-5-yl)acetyl]amino}cyclopropyl)phenyl 4-(trifluoromethyl)benzenesulfonate | FC(C1=CC=C(C=C1)S(=O)(=O)OC1=C(C=CC=C1)[C@@H]1[C@H](C1)NC(CC1=CC2=C(OCO2)C=C1)=O)(F)F | C25H20F3NO6S
